US08034812B2
Production of N-(6-phenoxyimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide
Using phenol (69 mg, 0.73 mmol), N,N-dimethylformamide (25.0 mL), potassium tert-butoxide (1.16 g, 10.3 mmol), N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (200 mg, 0.61 mmol) and potassium carbonate (42 mg, 0.31 mmol), and in the same manner as in Example 216, the title compound (98 mg, 54%) was obtained as a white powder.

reactant | phenol | 0.73 mmol, 69 mg | C1(=CC=CC=C1)O | C6H6O
reactant | potassium tert-butoxide | 10.3 mmol, 1.16 g | CC(C)([O-])C.[K+]
reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 0.61 mmol, 200 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | potassium carbonate | 0.31 mmol, 42 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 25.0 mL | CN(C=O)C | C3H7NO
product | N-(6-phenoxyimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 98 mg, 54% | O(C1=CC=CC=C1)C=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C16H14N4O2
